data/rdb19/train.csv
rxn,smiles,ea
928,[C:19]([C:20]([C:21]([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],61.87782618438359
4325,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])[H:29])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[H:30])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],30.32050221657846
3953,[C:11]([H:12])([H:13])[H:14].[O:1]([C:2]([C:3]([S:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[H:5][C:11]([H:12])([H:13])[H:14].[O:1][C:2]([C:3]([S:4][H:10])([H:8])[H:9])([H:6])[H:7],18.909412406326737
172,[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]1([C:13](=[C:12]([H:20])[H:21])[H:22])[C:15]([H:23])[C:16]([H:24])=[C:17]([H:25])[C:18]([H:26])=[C:19]1[H:27])([H:6])([H:7])[H:8],27.63331765134353
3328,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15](=[C:16]([H:25])[H:26])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])([H:9])[H:27])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],35.47666408173973
3726,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:19]1([C:18](=[C:17]([H:25])[H:26])[H:27])[C:20]([H:28])[C:21]([H:29])=[C:22]([H:30])[C:23]([H:31])=[C:24]1[H:32],42.794591403217055
3487,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][O:18][C:19](=[C:20]([H:25])[H:26])[H:24],69.57222347706556
4097,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:35])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])[c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])([H:33])[H:34])([H:30])([H:31])[H:32],21.56324316951213
1289,[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13]#[N:14])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:11]([C:10]([H:15])([H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13]#[N:14].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],35.167405174754094
3162,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([H:7])([H:8])([H:9])[C:23]([C:22]([C:21]([H:27])([H:28])[H:29])([H:30])[H:31])([H:24])[C:25]([C:26]([H:34])([H:35])[H:36])([H:32])[H:33].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],60.26533138670493
1996,[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:19])([H:6])[H:7],31.830386587244
